US04052455
Hydrogen chloride is bubbled through a mixture of 4-cyanostilbene (13.5 g., 0.065 mole), obtained according to the method of Belgian Pat. No. 641,415 (Chem. Abs. 63: 3092g (1965)), in 35 ml. of dry benzene and 17.5 ml. of absolute ethanol at 0° to 5° C. or a period of 3 hr. The reaction is maintained at 0° to 5° C. for 48 hr. and the solvent and excess hydrogen chloride removed under reduced pressure. The residue stirred with 50 ml. of dry benzene and collected provides 13.0 g. of ethyl-4-styrylbenzimidate hydrochloride. A methanol solution of the benzimidate salt is cooled to 5° to 10° C., saturated with ammonia and heated at a temperature of 100° C. for a period of 3 hr. in an enclosed container. Concentration of the reaction mixture provides 4-styrylbenzamidine hydrochloride.

reactant | Hydrogen chloride | Cl | ClH
reactant | 4-cyanostilbene | 0.065 mole, 13.5 g | C(#N)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H11N
reactant | ethyl-4-styrylbenzimidate hydrochloride | Cl.C(C)OC(C1=CC=C(C=C1)C=CC1=CC=CC=C1)=N
reactant | benzimidate | C(C1=CC=CC=C1)([O-])=N
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-styrylbenzamidine hydrochloride | Cl.C(=CC1=CC=CC=C1)C1=CC=C(C(=N)N)C=C1 | InChI=1S/C15H14N2.ClH/c16-15(17)14-10-8-13(9-11-14)7-6-12-4-2-1-3-5-12;/h1-11H,(H3,16,17);1H
